US05510538
o-Iodoxybenzoic acid I (210 mg; 0.75 mmol) was added in one portion to a stirred solution of 1,2-diphenyl-1,2-butanediol (121 mg; 0.5 mmol) in DMSO (1.7 ml). After 1.5 h the reaction was poured in ml of a solution of Na2CO3 (10%) and extracted with diethyl ether (3×10 ml). The combined organic layers were washed with brine and dried over sodium sulfate. The Organic solvent was distilled under vacuum. The residue was triturated with n-pentane to give 120 mg (98%) of 2-hydroxy-1,2-diphenyl-butan-1-one mp 62°-68° C. (lit. 68°-69° C.: MacKenzie A. and Richtie A. Chem. Ber. 1937, 70, 23).

reactant | o-Iodoxybenzoic acid | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
reactant | 1,2-diphenyl-1,2-butanediol | 0.5 mmol, 121 mg | C1(=CC=CC=C1)C(C(CC)(O)C1=CC=CC=C1)O | C16H18O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMSO | 1.7 ml | CS(=O)C | C2H6OS
product | 2-hydroxy-1,2-diphenyl-butan-1-one | 120 mg, 98% | OC(C(=O)C1=CC=CC=C1)(CC)C1=CC=CC=C1 | C16H16O2
